US04150139
The reaction of 3-bromo-11H-s-triazolo[3,4-b][3]benzazepine with sodium ethoxide yielded 3-ethoxy-11H-s-triazolo[3,4-b][3]benzazepine. Colorless needles (as recrystallized from acetone), melting point: 143°-144° C. Infrared absorption spectrum of this compound was identical with that of the products obtained in Examples 35 and 36.

reactant | 3-bromo-11H-s-triazolo[3,4-b][3]benzazepine | BrC1=NN=C2CC3=C(C=CN21)C=CC=C3 | C11H8BrN3
reactant | sodium ethoxide | [O-]CC.[Na+]
product | 3-ethoxy-11H-s-triazolo[3,4-b][3]benzazepine | C(C)OC1=NN=C2CC3=C(C=CN21)C=CC=C3 | C13H13N3O
